US07964608B2
3-(1-Cyclopentyl-7-methoxy-2,4-dioxo-1,4-dihydro-2H-pyrimido[5,4-c]quinolin-3-yl)-benzonitrile (19 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 3-isocyanato-benzonitrile (0.5 mmol) following general procedure C. LCMS: m/z 413 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 3-isocyanato-benzonitrile | 0.5 mmol | N(=C=O)C=1C=C(C#N)C=CC1 | C8H4N2O
product | 3-(1-Cyclopentyl-7-methoxy-2,4-dioxo-1,4-dihydro-2H-pyrimido[5,4-c]quinolin-3-yl)-benzonitrile | 19 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C=2C=C(C#N)C=CC2)=O | C24H20N4O3
